US04495202
D. Preparation of 1-[4,5-bis(4-methoxyphenyl)-1,5-cyclohexadien-1-yl]-4-fluorobenzene
A solution of 6.11 ml. of 4-bromofluorobenzene in 200 ml. of tetrahydrofuran was cooled to -60° C. by means of an external cooling bath. Under a nitrogen atmosphere, 33.75 ml. of a 1.6M solution of n-butyllithium in hexane were added at such a rate as to maintain the temperature between -65° to -55° C. After the addition was complete, the reaction was stirred for about 20 minutes. A solution of 15.11 g. of 3,4-bis(4-methoxyphenyl)-2-cyclohexen-1-one in 200 ml. of tetrahydrofuran was added over a period of about one hour. The reaction was then allowed to warm to 0° C. during the next three hours. Sixty milliliters of water were then added in a dropwise fashion. The solution was added to three liters of diethyl ether and the organic solution was washed several times with water. The organic solution was dried over sodium sulfate and evaporated in vacuo to dryness. The residue was dissolved in 400 ml. of toluene and treated with 2.5 g. of p-toluenesulfonic acid. The solution was allowed to reflux overnight. The solvent was then removed by evaporation and the residue was purified by chromatography to afford 13.98 g. of the title diene intermediate.

reactant | 4-bromofluorobenzene | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | n-butyllithium | C(CCC)[Li]
reactant | 3,4-bis(4-methoxyphenyl)-2-cyclohexen-1-one | COC1=CC=C(C=C1)C1=CC(CCC1C1=CC=C(C=C1)OC)=O | C20H20O3
solvent | hexane | CCCCCC | C6H14
solvent | diethyl ether | three liters | C(C)OCC | C4H10O
solvent | water | Sixty milliliters | O | H2O
product | 1-[4,5-bis(4-methoxyphenyl)-1,5-cyclohexadien-1-yl]-4-fluorobenzene | COC1=CC=C(C=C1)C1CC=C(C=C1C1=CC=C(C=C1)OC)C1=CC=C(C=C1)F | C26H23FO2
